US07745649B2
In a flask made of glass having an inner volume of 500 ml and equipped with a stirring device and a dropping funnel were charged 37 g (0.68 mol) of sodium methoxide and 200 ml of toluene, and while maintaining the liquid temperature to 15° C. or lower, a mixed solution comprising 50 g (0.50 mol) of 1-methoxy-1-buten-3-one and 60 g (1.0 mol) of methyl formate was gently added dropwise to the mixture. After completion of the dropwise addition, the mixture was reacted at 15° C. or lower for 1 hour, and at room temperature for 3 hours. Thereafter, the reaction solution was concentrated under reduced pressure, 50 ml of methanol was added to the concentrate, 60 g (0.6 mol) of 98% sulfuric acid was gently added dropwise to the mixture while maintaining the liquid temperature to 15° C. or lower, and the mixture was reacted under stirring at room temperature for 5 hours. After completion of the reaction, 50% aqueous sodium hydroxide solution was added to the mixture to neutralize the same, the precipitated solid was filtered off, and the obtained filtrate was concentrated. The concentrate was purified by silica gel column chromatography (Eluent; hexane:ethyl acetate=10:1) to give 18.5 g (Isolation yield: 18%) of 1,1,5,5-tetramethoxypentane-3-one as orange liquid.

reactant | sodium methoxide | 0.68 mol, 37 g | C[O-].[Na+]
reactant | 1-methoxy-1-buten-3-one | 0.50 mol, 50 g | COC=CC(C)=O | C5H8O2
reactant | methyl formate | 1.0 mol, 60 g | C(=O)OC | C2H4O2
reactant | sulfuric acid | 0.6 mol, 60 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1,5,5-tetramethoxypentane-3-one | 18.5 g, yield: 18% | COC(CC(CC(OC)OC)=O)OC | C9H18O5
